US04055595
The above process is repeated except that the ethyl 2-(4-chlorophenoxy)-3,3,3-trifluoro-2-trifluoromethylpropionate is replaced by ethyl 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionate (13 g.) and the residue obtained by evaporation of the ethereal extract is purified by distillation at 10-3 mm. pressure, crystallisation from petrol (b.p. 30°-40° C.) at -65° C. and redistillation to give 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionic acid, b.p. 68°-70° C, at 10-3 mm., m.p. 6°-8° c. (8 g.).

reactant | ethyl 2-(4-chlorophenoxy)-3,3,3-trifluoro-2-trifluoromethylpropionate | ClC1=CC=C(OC(C(=O)OCC)(C(F)(F)F)C(F)(F)F)C=C1 | C12H9ClF6O3
reactant | ethyl 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 13 g | O(C1=CC=CC=C1)C(C(=O)OCC)(C(F)(F)F)C(F)(F)F | C12H10F6O3
product | 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionic acid | O(C1=CC=CC=C1)C(C(=O)O)(C(F)(F)F)C(F)(F)F | C10H6F6O3
